US07456289B2
3-(1,3-Dioxolan-2-yl)-6-methoxybenzofuran (0.144 g, 0.65 mmol) was dissolved in THF (5 mL) at −30 to −20° C. To this solution was added dropwise tert-butyllithium (15% in pentane, 0.56 mL, 1.31 mmol). The reaction mixture was continuously stirred at −30° C. for 30 min and then allowed to warm to 0° C. and stir for another 20 min. The reaction mixture was cooled to −30° C. again and iodomethane (0.138 g, 0.98 mmol) was added dropwise. After stirring at −30° C. for another 1 h, it was allowed to warm to room temperature overnight. After the solvent was removed under reduced pressure, the residue was dissolved in EtOAc and washed with saturated NaHCO3. The aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were dried over anhydrous MgSO4 and concentrated under reduced pressure to provide 3-[1,3]dioxolan-2-yl-6-methoxy-2-methyl-benzofuran.

reactant | 3-(1,3-Dioxolan-2-yl)-6-methoxybenzofuran | 0.65 mmol, 0.144 g | O1C(OCC1)C1=COC2=C1C=CC(=C2)OC | C12H12O4
reactant | tert-butyllithium | 1.31 mmol, 0.56 mL | C(C)(C)(C)[Li]
reactant | iodomethane | 0.98 mmol, 0.138 g | IC | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[1,3]dioxolan-2-yl-6-methoxy-2-methyl-benzofuran | O1C(OCC1)C1=C(OC2=C1C=CC(=C2)OC)C | C13H14O4
